US05780465
A 13.0 g sample of 3-(4-ethylphenyl)propanoic acid was dissolved in 125 g of Eaton's reagent and the mixture was heated at 50° C. with stirring for 3 hours. The resulting mixture was cooled and poured into water. The mixture obtained was extracted with ethyl acetate and the organic extract was dried over sodium sulfate and concentrated by evaporation under reduced pressure. The residue was distilled and the 7.8 g colorless liquid fraction boiling at 95°-100° C. under 0.5 mm Hg (66 Pascals) pressure was collected to obtain 6-ethyl-1-indanone.

reactant | 3-(4-ethylphenyl)propanoic acid | C(C)C1=CC=C(C=C1)CCC(=O)O | C11H14O2
reactant | water | O | H2O
solvent | Eaton's reagent | 125 g | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 6-ethyl-1-indanone | C(C)C1=CC=C2CCC(C2=C1)=O | C11H12O
